US08440689B2
B. Methyl 6-chloro-4-cyano-2-(3-(methylsulfonyl)phenylamino)nicotinate
To a solution of methyl 6-chloro-4-cyano-2-(3-(methylthio)phenylamino)nicotinate (291.1 mg, 0.872 mmol) in DMF (10 mL) was added m-chloroperoxybenzoic acid (538.9 mg, 2.405 mmol) at 0° C. The mixture was stirred at RT for 16 h. Aqueous Na2S2O3 (30 mL) was added and the mixture was extracted with EtOAc (2×30 mL). The organic layers were washed with saturated aq NaHCO3 (20 mL), water (20 mL) and brine (20 mL), were dried over anhydrous Na2SO4, and then filtered (DM1020). The filtrate was concentrated under reduced pressure and the residue was washed with IPE to give the title compound as a yellow solid (158.2 mg, 50%). 1H-NMR (CDCl3) δ ppm 3.11 (s, 3H), 4.07 (s, 3H), 7.10 (s, 1H), 7.57-7.60 (m, 1H), 7.70-7.72 (m, 1H), 7.91-7.93 (m, 1H), 8.25-8.26 (m, 1H), 10.73 (s, 1H).

reactant | methyl 6-chloro-4-cyano-2-(3-(methylthio)phenylamino)nicotinate | 0.872 mmol, 291.1 mg | ClC1=NC(=C(C(=O)OC)C(=C1)C#N)NC1=CC(=CC=C1)SC | C15H12ClN3O2S
reactant | m-chloroperoxybenzoic acid | 2.405 mmol, 538.9 mg | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | Na2S2O3 | 30 mL | [O-]S(=O)(=S)[O-].[Na+].[Na+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | Methyl 6-chloro-4-cyano-2-(3-(methylsulfonyl)phenylamino)nicotinate | 158.2 mg, 50% | ClC1=NC(=C(C(=O)OC)C(=C1)C#N)NC1=CC(=CC=C1)S(=O)(=O)C | C15H12ClN3O4S
